US05374643
A solution of [4-(1H-tetrazol-5-yl)phenyl]amine (0.97 g, 0.006 mol, prepared in sequence by the procedures described by W. G. Finnegan et al., J. Amer. Chem. Soc, 1958, 80, 3908 and McManus and Herbst, J. Amer. Chem. Soc,, 1959, 24, 1044) in acetonitrile (30 mL), dimethylformamide (7 mL) and pyridine (0.97 mL, 0.95 g, 0.012 mol) under argon at 0° C. was treated with p-nitrophenyl chloroformate (1.21 g, 0.006 mol) and stirred at room temperature overnight. The reaction mixture was concentrated in vacuo and an effort was made to partition the remaining oil between ethyl acetate and 1M HCl, resulting in separation of product insoluble in either phase. This was collected, triturated with wet ether and dried in vacuo overnight to yield 1.37 g of [4-(1H-tetrazol-5-yl)phenyl]carbamic acid, 4-nitrophenyl ester, m.p. >260° C. TLC, silica gel, EtOAc/MeOH/HOAc (20:1:0.2), Rf =0.63; 1H-NMR (DMSO-d6 ) δ7.6 (d, J=8.8 Hz, 2H), 7.7 (d, J=8.8 Hz, 2H), 8.1 (d, J=8.8 Hz, 2H) 8.3 (d, J=8.8 Hz, 2H); 13C-NMR (DMSO-d6) δ150.6, 144.7, 140.9, 128.0, 125.3, 123.0, 118.9, 118.2. M.S., (M+H)+ at 327, M.W. 326.

reactant | [4-(1H-tetrazol-5-yl)phenyl]amine | N1N=NN=C1C1=CC=C(C=C1)N | C7H7N5
reactant | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
reactant | pyridine | 0.012 mol, 0.97 mL, 0.95 g | N1=CC=CC=C1 | C5H5N
reactant | p-nitrophenyl chloroformate | 0.006 mol, 1.21 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | [4-(1H-tetrazol-5-yl)phenyl]carbamic acid, 4-nitrophenyl ester | 1.37 g | N1N=NN=C1C1=CC=C(C=C1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C14H10N6O4
